US08067445B2
Step 2: [2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: (5-bromo-2-methoxy-phenyl)-acetic acid methyl ester and bis(pinacolato)diboron.

reactant | (5-bromo-2-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)Br)OC)=O | C10H11BrO3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [2-Methoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid methyl ester | COC(CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)=O | C16H23BO5
